US06649718B2
Sodium Sulfosuccinate
Subsequently, 704 g of the resulting 10 mol ethylene oxide adduct was subjected to an esterification reaction with 100 g of maleic anhydride at 80° C. for 2 hours. Thereafter, 300 g of water was added to this reaction mixture and then neutralized with an aqueous solution of sodium hydroxide at an internal temperature of 30° C. or lower. Further, the resulting mixture was subjected to a sulfonation reaction at 70° C. for 3 hours by introduction of 120 g of sodium bisulfite to give a composition K as an example of the present invention.

reactant | ethylene oxide | 10 mol | C1CO1 | C2H4O
reactant | maleic anhydride | 100 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium bisulfite | 120 g | S([O-])(O)=O.[Na+]
solvent | water | 300 g | O | H2O
product | Sodium Sulfosuccinate | S(=O)(=O)(O)C(C(=O)[O-])CC(=O)[O-].[Na+].[Na+] | InChI=1S/C4H6O7S.2Na/c5-3(6)1-2(4(7)8)12(9,10)11;;/h2H,1H2,(H,5,6)(H,7,8)(H,9,10,11);;/q;2*+1/p-2
